US05443971
3-Acetyl-6-methyl-4-hydroxypyran-2-one may be deacylated by reaction with 90% sulphuric acid at 130° C. to give 6-methyl-4-hydroxy pyran-2-one;

reactant | 3-Acetyl-6-methyl-4-hydroxypyran-2-one | C(C)(=O)C=1C(OC(=CC1O)C)=O | C8H8O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-methyl-4-hydroxy pyran-2-one | CC1=CC(=CC(O1)=O)O | C6H6O3
